Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tape
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old female with a sig PMHx of endometrial
adenocarcinoma s/p TAH BSO, HTN, HLD, who presents with acute
onset dyspnea. 

The patient was well until 1 week PTA, when she presented with
dyspnea, dry cough, and nasal congestion. She also described
lower back pain that worsened with her cough. She saw her PCP 
who
obtained ___ CXR, which was without infiltrates. She was treated
for a viral URI with symptomatic care and albuterol prn. 

Unfortunately, she did not feel better over the next few days 
and
continued to feel short of breath, especially on exertion. At
baseline, she can walk up 1 flight of stairs, however now she
could not walk more than 100 ft. She was seen once again at her
PCP's office where she was found to be hypoxemic on exertion and
with significant EKG changes (TWI in V1-V5). She was transferred
to ___ where CTA showed evidence of "bilateral
central pulmonary emboli, and evidence of R heart strain". She
also had a BNP elevated to 6000, D dimer 3.8, and a mild 
troponin
leak to 0.02. She was transferred to ___ for further 
evaluation
and possible advanced therapies. Of note, she denies any history
of PE/DVT.

In the ED, the patient was asymptomatic at rest, denying any
chest pain, shortness of breath, palpitations, lightheadedness. 

- Initial vitals:
T 98.2 HR 91 BP 162/71 RR 20 SPO2 93% RA

- Exam: NAD

- EKG: NSR 85 bpm. normal axis and intervals. TWI in leads 
V1-V5.
no acute ST elevations. S1Q3T3.

- Labs/studies notable for:
CBC: WBC 11.4 Hb 11.2 Plt 217
CHEM7: K 3.7 BUN/Cr ___ Ca ___ Mg 2.1
proBNP: ___
Coags: INR 1.2
Trop: 0.02

- Patient was given:
-IV Heparin @ 1500 units/hr

- Consults: 
MASCOT: 
Pt has features of submassive PE (elevated cardiac biomarkers) 
Recommend admission to medicine with therapeutic 
anticoagulation.

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Dyslipidemia
- Stage III CKD (GFR 53 mg/dL)

2. CARDIAC HISTORY
- None

3. OTHER PAST MEDICAL HISTORY
- Basal Cell Carcinoma
- H/O Squamous Cell Carcinoma
- H/O Endometrial Adenocarcinoma s/p TAH BSO with vaginal cuff
sparing

SCREENING:
- Colonoscopy: ___ ___ years) ___ colon polyp
- Mammogram: ___ (due ___
- **Pap smear: vaginal cuff pap smear in ___ (due in ___
- Hep C neg
 
Social History:
___
Family History:
Mother: ___ Cancer, CVA (___)
No family history of VTE/coagulopathies, or early CAD

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===============================
VS: T 97.8 BP 147 / 71 HR 79 RR 20 SPO2 91 RA 
GENERAL: well appearing pleasant female, lying in bed, NAD
HEENT: anicteric sclera, MMM, no conjunctival pallor. 
NECK: supple, no cervical or submandibular LAD
CV: RRR, +S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, ___ edema. neg ___
sign.
PULSES: 2+ radial and DP pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

DISCHARGE PHYSICAL EXAMINATION:
===============================
GENERAL: well-appearing pleasant female, lying in bed, NAD
HEENT: anicteric sclera, MMM, no conjunctival pallor. 
NECK: supple, no cervical or submandibular LAD
CV: RRR, +S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: Trace lower extremity edema bilaterally.
NEURO: Alert, conversant, moving all 4 extremities with purpose,
face symmetric

 
Pertinent Results:
ADMISSION 
___ 12:30AM BLOOD WBC-11.4* RBC-3.42* Hgb-11.2 Hct-33.1* 
MCV-97 MCH-32.7* MCHC-33.8 RDW-13.6 RDWSD-47.6* Plt ___
___ 12:30AM BLOOD Neuts-68.8 ___ Monos-8.3 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-7.86* AbsLymp-2.48 AbsMono-0.95* 
AbsEos-0.04 AbsBaso-0.04
___ 12:30AM BLOOD ___ PTT-150* ___
___ 12:30AM BLOOD Glucose-117* UreaN-26* Creat-1.2* Na-139 
K-3.7 Cl-98 HCO3-22 AnGap-19*
___ 12:30AM BLOOD proBNP-6674*
___ 12:30AM BLOOD cTropnT-0.02*
___ 12:30AM BLOOD Calcium-10.5* Phos-3.6 Mg-2.1

DISCHARGE 
___ 06:20AM BLOOD WBC-7.0 RBC-3.33* Hgb-10.8* Hct-33.2* 
MCV-100* MCH-32.4* MCHC-32.5 RDW-14.2 RDWSD-51.1* Plt ___
___ 06:20AM BLOOD Glucose-88 UreaN-26* Creat-1.2* Na-142 
K-3.8 Cl-102 HCO3-23 AnGap-17
___ 06:20AM BLOOD Calcium-9.9 Phos-4.2 Mg-2.1

TTE ___
IMPRESSION: Right ventricular cavity dilation with free wall 
hypokinesis. Moderate pulmonary
artery systolic hypertension. Normal left ventricular wall 
thickness, cavity size and regional/global
systolic function. Mild-moderate tricuspid regurgitation.

___ ___
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a sig PMHx of endometrial
adenocarcinoma s/p TAH BSO, HTN, HLD, who presents with acute
onset dyspnea and CTA evidence of b/l submassive PE.

# Submassive Pulmonary Embolism: The patient presents with acute
onset dyspnea, hypoxemia, mild troponinemia, and TTE findings of
right heart strain at ___. CTA with evidence of
bilateral PE and R main PA thrombus. She was started on a 
heparin gtt. Patient was HD stable and without evidence of 
massive PE including O2 requirements,
hypotension, or present with syncope. MASCOT consulted and
recommend anticoagulation/medication management. Etiology of PE
unclear, as patient reports no prior PE/DVT history. However, 
the
patient has a documented history of endometrial adeno ca and
colon polyps (although patient denies knowledge of previous
endometrial carcinoma). She is up to date on all routine
malignancy screenings except for a vaginal cuff Pap smear, which
was due in ___ (per GYN recs). She denies any recent travel,
trauma, immobility, or surgeries. Not currently on hormonal
therapy or history of pro-thrombotic disorders. Considering the
subacute onset, patient likely developed PEs a few weeks ago and
is now presenting with symptoms of right heart failure in the
setting of pulmonary hypertension. TTE showed LVEF 67%, RV 
dilation with hypokinesis and IV septal wall motion consistent 
with RV strain. Moderate PA HTN. Mild to
moderate TR. LENIS did not show any evidence of DVT. Heparin 
drip was transitioned to apixaban (10 mg twice daily for 7 days 
followed by 5 mg twice daily). 

CHRONIC ISSUES:
==============
#Hyperlipidemia: 
Continues simvastatin 40mg daily

#Hypertension: 
Continued home lisinopril 20 mg daily
Continued home hydrochlorothiazide 25 mg daily

#Health Maintenance: 
Continued Calcium Carbonate-Vitamin D3 supplementation
Continued home omega-3 fatty acid supplements

TRANSITIONAL ISSUES
===================
- Patient has a documented history of endometrial adenocarcinoma 
and colon polyps (although patient denies knowledge of previous 
endometrial carcinoma). She will need all of her age-appropriate 
cancer surveillance to evaluate for malignancy-associated 
clotting. 
- Patient is being treated with apixiban: 10 mg twice daily for 
7 days ___ pm - ___ am)followed by 5 mg twice daily for at 
least 3 months 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 1500-400 
units oral DAILY 
4. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablets(s) by mouth 
twice a day Disp #*74 Dose Pack Refills:*0 
2.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 1500-400 
units oral DAILY  
3.  Fish Oil (Omega 3) 1000 mg PO BID  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
5.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Pulmonary Embolism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Is a pleasure taking care of you at ___.

You came into the hospital because of having shortness of 
breath.  You were found to have clots in the blood vessels that 
go to your lungs (pulmonary emboli).  He was started on IV 
heparin to thin your blood.  This was transitioned to a oral 
blood thinner called apixaban, or Eliquis.

When you go home you should take all of your medications as 
prescribed and attend all of her scheduled follow-up 
appointments.  You should monitor for signs of worsening of your 
heart and lung function, such as shortness of breath, chest 
pain, coughing up blood, lightheadedness, leg swelling.

We wish you all the best,
Your ___ care team
 
Followup Instructions:
___